US05262418
A solution of 5.5 parts of 3,3-bis(4-fluorophenyl)-1-propanol and 2.92 parts of thionyl chloride in 39.9 parts of dichloromethane was stirred for 4 hours at 60° C. The reaction mixture was evaporated and then co-evaporated with methylbenzene. The residue was dissolved in ethyl acetate and this solution was washed with Na2CO3 (aq.), water and NaCl (sat.) and was then dried, filtered and evaporated. The residue was purified by column chromatography (silica gel; (C2H5)2O/n. hexane 2:98). The eluent of the desired fraction was evaporated, yielding 4.5 parts (76.7%) of 1-[3-chloro-1-(4-fluorophenyl)propyl]-4-fluorobenzene (interm. 22).

reactant | 3,3-bis(4-fluorophenyl)-1-propanol | FC1=CC=C(C=C1)C(CCO)C1=CC=C(C=C1)F | C15H14F2O
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-[3-chloro-1-(4-fluorophenyl)propyl]-4-fluorobenzene | 76.7% | ClCCC(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C15H13ClF2
